US06417203B1
2-[3-{[3-({2-[(tert-Butoxycarbonyl)(methyl)amino]ethoxy}methyl)phenethyl]amino}-6-methyl-2-oxo-1(2H)-pyrazinyl]acetic Acid
Ammonium formate (368 mg, 5.83 mmol), followed by 10% palladium on charcoal (200 mg), were added to a solution of benzyl 2-[3-{[3-({2-[(tert-butoxycarbonyl)(methyl)amino]ethoxy}methyl)phenethyl]amino}-5-chloro-6-methyl-2-oxo-1(2H)-pyrazinyl]acetate (preparation 113) (350 mg, 0.58 mmol) in methanol (10 ml), and the reaction stirred at room temperature ovemight. The reaction mixture was filtered through Whatman® fibre, and the filtrate concentrated under reduced pressure. The residue was triturated with dichloromethane, the resulting suspension filtered again through Whatman® fibre, then through celite, and this filtrate evaporated under reduced pressure. The residual solid was dissolved in dichloromethane, the solution washed with water, brine, then dried over MgSO4 and evaporated under reduced pressure to give the desired product as a gum, (213 mg, 79%).

reactant | Ammonium formate | 5.83 mmol, 368 mg | C(=O)[O-].[NH4+]
reactant | benzyl 2-[3-{[3-({2-[(tert-butoxycarbonyl)(methyl)amino]ethoxy}methyl)phenethyl]amino}-5-chloro-6-methyl-2-oxo-1(2H)-pyrazinyl]acetate | 0.58 mmol, 350 mg | C(C)(C)(C)OC(=O)N(CCOCC=1C=C(CCNC=2C(N(C(=C(N2)Cl)C)CC(=O)OCC2=CC=CC=C2)=O)C=CC1)C | C31H39ClN4O6
catalyst | palladium on charcoal | 200 mg | [Pd] | Pd
solvent | methanol | 10 ml | CO | CH4O
product | 2-[3-{[3-({2-[(tert-Butoxycarbonyl)(methyl)amino]ethoxy}methyl)phenethyl]amino}-6-methyl-2-oxo-1(2H)-pyrazinyl]acetic Acid | 213 mg, 79% | C(C)(C)(C)OC(=O)N(CCOCC=1C=C(CCNC=2C(N(C(=CN2)C)CC(=O)O)=O)C=CC1)C | C24H34N4O6
